US04069055
N-phenacylpyridinium bromide was prepared by slowly adding phenacyl bromide to a stirred flask containing an equimolar quantity of pyridine. The slightly exothermic reaction was accompanied by the precipitation of the solid N-phenacylpyridinium bromide. The salt was then filtered and washed thoroughly with anhydrous ether.

reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | N-phenacylpyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C13H12NO.BrH/c15-13(12-7-3-1-4-8-12)11-14-9-5-2-6-10-14;/h1-10H,11H2;1H/q+1;/p-1
